US07652049B2
(4S,5R)-3-(5-amino-2-bromobenzyl)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one
A mixture of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-bromo-5-nitrobenzyl)-4-methyl-1,3-oxazolidin-2-one (614 mg, 1.17 mmol), tin(II) chloride dehydrate (1.314 g, 5.823 mmol) and ethanol (3 mL) was stirred at 20° C. for 36 h. Reaction crude was worked up with water. The resulting mixture was extracted with EtOAc and dried over Na2SO4. The titled compound was obtained as a glassy material after SiO2 purification (Biotage 40+M, gradient, 0% to 35% EtOAc in hexanes). LC-MS: 499.05 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.88 (s, 1H), 7.77 (s, 2H), 7.31 (d, J=8.5, 1H), 6.77 (d, J=2.7, 1H), 6.54 (dd, J=8.5, 2.7 Hz, 1H), 5.69 (d, J=8.0 Hz, 1H), 4.77 (d, J=15.3, 1H), 4.29 (d, J=15.3 Hz, 1H), 4.05-4.12 (m, 1H), 0.79 (d, J=6.4 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-bromo-5-nitrobenzyl)-4-methyl-1,3-oxazolidin-2-one | 1.17 mmol, 614 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)[N+](=O)[O-])Br)C)(F)F | C19H13BrF6N2O4
reactant | tin(II) chloride | [Sn](Cl)Cl
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | (4S,5R)-3-(5-amino-2-bromobenzyl)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | NC=1C=CC(=C(CN2C(O[C@@H]([C@@H]2C)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C1)Br | C19H15BrF6N2O2
